### PR TITLE
[stm] Filter some more arguments that shouldn't be sent to workers.

### LINKED ISSUE #9484: -async-proofs-tac-j option doesn't work for coqc
#### Description of the problem

It seems that the `-async-proofs-tac-j` command line option is now parsed by `coqc`, and files which do not contain `par: someTactic.` commands compile correctly, but if a file contains `par: someTactic.`, an error occurs when the proof worker subprocess is started:

```
$ cat Async.v
```

```
Lemma test: forall a: nat, a = 1 \/ a = 2 -> a <> 0.
Proof.
  intros.
  destruct H.
  par: congruence.
Qed.
```

```
$ coqc -async-proofs-tac-j 1 Async.v 
```

```
Error: integer expected after option -async-proofs-tac-j
Handshake with tacticworker:0 failed: End_of_file
```

Trying some other ways of passing the integer argument, none of which works:

```
$ coqc -async-proofs-tac-j1 Async.v 
```

```
Warning: File "./-async-proofs-tac-j1" has been implicitly expanded to
"./-async-proofs-tac-j1.v" [file-no-extension,filesystem]
Error: Can't find file ./-async-proofs-tac-j1.v
```

```
$ coqc -async-proofs-tac-j=1 Async.v 
```

```
Warning: File "./-async-proofs-tac-j=1" has been implicitly expanded to
"./-async-proofs-tac-j=1.v" [file-no-extension,filesystem]
Error: Can't find file ./-async-proofs-tac-j=1.v
```

```
$ coqc -test-some-inexistent-option Async.v 
```

```
Warning: File "./-test-some-inexistent-option" has been implicitly expanded
to "./-test-some-inexistent-option.v" [file-no-extension,filesystem]
Error: Can't find file ./-test-some-inexistent-option.v
```

#### Coq Version

Coq master d9afe70c9c65359b6eb827f5b30d84f24074efa1 of Tue Feb 5 16:51:53 2019

### PR DESCRIPTION
**Pull request by ejgallego**
This fixes #9484 .

### CODE REVIEW

**Comment by gares** [comment]
Could you add a test to

**Comment by ejgallego** [comment]
> Could you add a test too?

Sure, what'd be the right category for this, `misc`?

**Comment by gares** [comment]
I'd say in `test-suite/stm/` and use `(* coq-prog-args: ("-async-proofs-tac-j" "1") *)` in order to call coqc with the right flag.

**Comment by ejgallego** [comment]
Thanks @gares , test added.

**Comment by ejgallego** [comment]
Failures are unrelated

**Review by gares — APPROVED** [review]

File: test-suite/stm/arg_filter_1.v [hunk 1]
```diff
@@ -0,0 +1,4 @@
+(* coq-prog-args: ("-async-proofs-tac-j" "1") *)
+
+Lemma foo : True.
+Proof. now auto. Qed.
```
Comment (samuelgruetter) [inline test-suite/stm/arg_filter_1.v]: This test will succeed even if bug https://github.com/coq/coq/issues/9484 is not fixed: The error only happens if the proof script contains a `par: someTactic` command.

Comment (gares) [reply test-suite/stm/arg_filter_1.v]: oops, I merged too quickly.
@ejgallego could you please fix the test?

Comment (ejgallego) [reply test-suite/stm/arg_filter_1.v]: Sure.

Comment (ejgallego) [reply test-suite/stm/arg_filter_1.v]: Excuse my ignorance in some of these options.
